Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
___ ERCP stent cleaning and retrieval
___ ___ percutaneous biliary drain placement

 
History of Present Illness:
Pt is a ___ y/o M with PMHx of stage IV cholangiocarcinoma, s/p 
biliary stenting, currently C8D14 of gemcitabine/cisplatin, with 
recent admission ___ for ESBL E.coli bacteremia currently 
on ertapenem, who presents with fever x 1 day. He states he had 
fever to 100.8 today. He denies any abdominal pain, no nausea 
vomiting. 

ED Course:
Initial VS: 98.3 94 151/77 20 100% Pain ___
Labs largely unremarkable.
Imaging: CXR with no acute cardiopulmonary process
Meds given: none
VS prior to transfer: 98.6 92 137/75 25 99% RA Pain ___

Of note, while in the ED, he was triggered her tachypnea. BP 
stable, not hypoxic at the time. Ultimately felt that this was 
related to anxiety.

On arrival to the floor, the patient denies any other acute 
complaints. He expresses frustration at his multiple recent 
admissions. He does endorse a chronic productive cough as well 
as chronic sinus congestion.

ROS: As above. Denies headache, lightheadedness, dizziness, sore 
throat, chest pain, heart palpitations, shortness of breath, 
nausea, vomiting, diarrhea, constipation, urinary symptoms, 
muscle or joint pains, focal numbness or tingling, skin rash. 
The remainder of the ROS was negative.

 
Past Medical History:
-T3N2M0 (stage ___ unresectable extrahepatic 
cholangiocarcinoma, currently cycle 8 of gemcitabine/cisplatin
-GERD
-Rosacea
-BPH
-Migraines controlled on Atenolol
-Arthritis of the knees and shoulder on the right
 
Social History:
___
Family History:
His grandfather had a cancer of the bone.  He has no other 
family history of malignancy.

 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS - 98.8 151/82 91 24 100%RA
GEN - Alert, NAD
HEENT - NC/AT, OP clear
NECK - Supple
CV - RRR, no m/r/g
RESP - CTA B
ABD - S/NT/ND, BS present
EXT - No ___ edema or calf tenderness
SKIN - No apparent rashes
NEURO - Non-focal
PSYCH - Calm, appropriate
 
DISCHARGE PHYSICAL EXAM
VS 98.2, 127/77, 72, 20, 79% on RA
GEN - Alert, NAD  
HEENT - NC/AT, OP clear  
NECK - Supple  
CV - RRR, no m/r/g  
RESP - CTA B  
ABD - S/NT/ND, BS present, PTC drain in place, no erythema or 
tenderness at drain site  
EXT - No ___ edema or calf tenderness  
SKIN - No apparent rashes  
NEURO - Non-focal  
PSYCH - Calm, appropriate 
 
Pertinent Results:
ADMISSION LABS
___ 07:00PM   GLUCOSE-135* UREA N-11 CREAT-0.8 SODIUM-140 
POTASSIUM-4.4 CHLORIDE-102 TOTAL CO2-24 ANION GAP-18
___ 07:13PM   LACTATE-2.1*
___ 07:00PM   ALT(SGPT)-19 AST(SGOT)-29 ALK PHOS-189* TOT 
BILI-0.5
___ 07:00PM   WBC-7.6# RBC-3.58* HGB-10.2* HCT-33.3* MCV-93 
MCH-28.4 MCHC-30.6* RDW-16.3*
___ 07:00PM   NEUTS-77.6* LYMPHS-13.4* MONOS-7.9 EOS-0.7 
BASOS-0.3
___ 07:00PM   PLT COUNT-135*#
___ 07:00PM   ___ PTT-35.1 ___
___ 08:45PM URINE  HOURS-RANDOM
___ 08:45PM URINE  GR HOLD-HOLD
___ 08:45PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 08:45PM URINE  RBC-0 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 07:29PM   ___ TEMP-37.8 PO2-51* PCO2-37 PH-7.45 
TOTAL CO2-27 BASE XS-1 INTUBATED-NOT INTUBA
___ 07:13PM   ___ COMMENTS-GREEN TOP

DISCHARGE LABS
___ 06:00AM BLOOD WBC-3.1* RBC-2.91* Hgb-8.5* Hct-26.6* 
MCV-92 MCH-29.1 MCHC-31.8 RDW-16.1* Plt ___
___ 02:23PM BLOOD Hgb-9.0* Hct-27.4*
___ 05:42AM BLOOD WBC-3.7* RBC-2.89* Hgb-8.3* Hct-26.3* 
MCV-91 MCH-28.8 MCHC-31.6 RDW-16.2* Plt ___
___ 06:00AM BLOOD Glucose-112* UreaN-6 Creat-0.6 Na-137 
K-4.4 Cl-99 HCO3-32 AnGap-10
___ 05:42AM BLOOD ALT-19 AST-26 AlkPhos-292* TotBili-0.4
___ 06:00AM BLOOD Calcium-9.0 Phos-2.8 Mg-1.9

MICROBIOLOGY
___ 10:30 am BLOOD CULTURE      #W2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      ESCHERICHIA COLI.    FINAL SENSITIVITIES. 
         Piperacillin/Tazobactam AND Cefepime sensitivity 
testing performed
         by ___. 
         Ertapenem Susceptibility testing requested by ___ 
___
         (___) ON ___.  RESISTANT TO Ertapenem. 
         Ertapenem sensitivity testing performed by ___. 


                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------       I
CEFTAZIDIME-----------    16 R
CEFTRIAXONE-----------  =>64 R
CIPROFLOXACIN---------   =>4 R
GENTAMICIN------------   <=1 S
MEROPENEM-------------     1 S
PIPERACILLIN/TAZO-----       I
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

___ Blood cultures x 2 NEGATIVE
___ Blood culture pending

IMAGING/STUDIES
___ CXR
FINDINGS:  Single portable view of the chest.  Relatively lower 
lung volumes are seen when compared to prior.  Calcific density 
again projects over the lateral aspect of the right mid lung.  A 
left PICC is seen with tip projecting over the distal 
brachiocephalic vein/upper SVC.  Given positioning, the lungs 
are grossly clear.  Cardiomediastinal silhouette is unchanged. 
IMPRESSION:  No definite acute cardiopulmonary process. 

___ CATH/STENT FOR INT/EXT BILIARY DRAINAGE
FINDINGS:  
Dilated right anterior biliary system with pus. 
Internal-external 8 ___ biliary drain likely passing through 
the proximal interstices of the left bare metal stent. 
IMPRESSION:  
Successful placement of a right anterior ___ internal-external 
biliary drain. 

 
Brief Hospital Course:
ASSESSMENT & PLAN: ___ y/o M with PMHx of stage IV 
cholangiocarcinoma, s/p biliary stenting, currently C8D14 of 
gemcitabine/cisplatin, with recent admission ___ for ESBL 
E.coli bacteremia and discharged on ertapenem, who presented 
with recurrent fever.

ACTIVE ISSUES:
# Presumed cholangitis: Patient without any clear localizing 
signs of infection; patient w/o abdominal pain and transaminitis 
downtrending compared to prior.  Patient evaluated by ERCP and 
underwent stent cleaning; noted during procedure to have biliary 
duct obstruction.  Patient underwent subsequent ___ PTC 
biliary drain placement without any complications.  Patient 
continued to experience stable RUQ abdominal pain following 
drain placement.  Of note, prior E. coli cultures from last 
hospitalization found to be ertapenem resistant so per ID, the 
patient will be discharged on meropenem for a total 10 day 
course (___).  The patient was continued on PO 
vancomycin (given recent C. diff infection) which can be 
discontinued upon completion of his meropenem course.   Patient 
to follow-up with ___ 3 months post-discharge to evaluate drain 
patency.

# Recent E.Coli Bacteremia: Patient to be discharged on 
meropenem per above until ___.

# Cholangiocarcinoma: Currently C8 of gemcitabine/cisplatin. 
Followed by Dr. ___.

# GERD: continued outpt PPI

# Migraine Headaches: continued ppx atenolol

# BPH: continued terazosin

***TRANSITIONAL ISSUES***
- Will f/u with primary oncologist (Dr. ___ post-discharge
- Will need f/u with Interventional Radiology in 3 months to 
evaluate PTC biliary drain patency
- Should patient develop complications of drain (i.e. worsening 
abdominal pain and fever), patient may need re-stenting
-patient discharged. will be on IV meropenem through ___ in 
addition to PO vancomycin through ___ as Cdiff prophylaxis 
(E.coli resistant to ertapenem)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
3. Loratadine 10 mg PO DAILY 
4. MetronidAZOLE Topical 1 % Gel 1 Appl TP BID 
5. OLANZapine 2.5-5 mg PO HS 
6. Ondansetron 8 mg PO Q8H:PRN n/v 
7. Pantoprazole 40 mg PO Q24H 
8. Terazosin 10 mg PO HS 
9. Vancomycin Oral Liquid ___ mg PO/NG Q6H 
10. ertapenem 1 gram injection q24h 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
cholangitis
E. coli bacteremia

Secondary:
cholangiocarcinoma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___ 
___.  You were admitted to the hospital for fever.  
We were concerned that you may have infection or blockage of 
your bile ducts.  Therefore, you were evaluated by the ___ team 
who retrieved a plastic stent in one of your bile ducts and 
cleaned your metal stents.  They found that one of your biliary 
ducts was obstructed.  You subsequently underwent percutaneous 
biliary drain placement with the Interventional Radiology 
service.  You did well with the procedure.  Because of the 
drain, it is normal for you to have some abdominal pain at the 
drain site for several weeks.  Because of your abdominal 
discomfort, we started you on pain medication which you may 
continue when you return home.  We also continued you on 
antibiotics; we found that the bacteria growing in your blood 
stream was actually resistant to the antibiotics you were on at 
home.  Therefore, you will be discharged on an antibiotic called 
meropenem.

Please follow-up with your outpatient providers as instructed 
below.

Thank you for allowing us to participate in your care.  All best 
wishes for your recovery.

Sincerely,
Your ___ medical team
 
Followup Instructions:
___